US07851493B2
To a suspension of 10 mg of 3-{4-[4-(1,4-dioxa-8-aza-spiro[4.5]dec-8-ylmethyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-1,2,4-oxadiazol-5-one in 2 mL of dioxane was added 0.5 mL of a 6N aqueous solution of hydrochloric acid. The resulting mixture was heated to 50° C. for 2 h and then poured into a saturated aqueous solution of sodium hydrogencarbonate and extracted with ethyl acetate. The organic extracts were washed with water, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was recrystallized in acetonitrile to give 6 mg of 3-{4-[4-(4,4-dihydroxy-piperidin-1-ylmethyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-1,2,4-oxadiazol-5-one as yellowish solid.

reactant | 3-{4-[4-(1,4-dioxa-8-aza-spiro[4.5]dec-8-ylmethyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-1,2,4-oxadiazol-5-one | 10 mg | O1CCOC12CCN(CC2)CC=2N=C(SC2COC2=CC(=C(C=C2)C2=NOC(N2)=O)OC)C2=CC=C(C=C2)C(F)(F)F | C28H27F3N4O6S
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 3-{4-[4-(4,4-dihydroxy-piperidin-1-ylmethyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-1,2,4-oxadiazol-5-one | 6 mg | OC1(CCN(CC1)CC=1N=C(SC1COC1=CC(=C(C=C1)C1=NOC(N1)=O)OC)C1=CC=C(C=C1)C(F)(F)F)O | C26H25F3N4O6S
